* Z:\mnt\data\01_Engineering\01_Projects\12_1_kV_strobe_v2\01_Strobe_main\Computations\sim\Pulse_gen_charge.asc
V1 bus 0 PULSE(1000 1000 0 100m 1u 100m 200m)
R1 bus drain 100k
C1 Cap 0 47n
S1 0 Cap N001 0 MYSW
V2 N001 0 PULSE(-1 1 0 1u 1u 100u 5m)
M1 drain N002 Cap Cap STW11NM80
D1 0 N003 KDZLV150
D2 N003 ref KDZLV150
C2 ref 0 47n
R2 N002 ref 200k
D3 Cap N002 MMBZ24VALY
R3 bus ref 990k
R4 Cap N002 100k
.model D D
.lib C:\users\f\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\f\Documents\LTspiceXVII\lib\cmp\standard.mos
.model MYSW SW()
.tran 100m
.backanno
.end
