* Z:\mnt\data\01_Engineering\01_Projects\12_1_kV_strobe_v2\01_Strobe_main\Computations\sim\Pulse_gen_tr_model.asc
V1 bus 0 PULSE(400 1000 0 1 1u 1m 1.1)
R1 bus drain 100k
C1 Cap 0 47n
S1 0 N003 trig 0 MYSW
V2 trig 0 PULSE(-1 1 2u 1u 1u 9u 5m)
M1 drain N001 Cap Cap STW11NM80
D1 0 N004 KDZLV150
D2 N004 ref KDZLV150
C2 ref 0 47n
R2 N001 ref 200k
D3 Cap N001 MMBZ24VALY
R3 ref bus 990k
R4 N001 Cap 100k
L1 N003 Cap 20µ Rser=0.32
L2 N003 HV 18m Rser=220
R5 HV 0 1Meg
D4 N002 Cap VS-E5TH1512
R6 N003 N002 1
.model D D
.lib C:\users\f\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\f\Documents\LTspiceXVII\lib\cmp\standard.mos
.model MYSW SW()
.tran 30u
K1 L1 L2 0.9
.backanno
.end
